US07622464B2
Description 46: 2-Aminomethyloxazole-4-carboxylic acid methyl ester
2-(Benzyloxycarbonylaminomethyl)oxazole-4-carboxylic acid methyl ester (0.439 g) (prepared as described in; Journal of Peptide Science (1999), 5(9), 392-398) was dissolved in ethyl acetate (13 ml) and hydrogenated with vigorous stirring at 20° C. and 1 atmosphere of pressure using 10% palladium on carbon catalyst (0.20 g) for 4 hours. The mixture was filtered using celite filter aid and the solvent evaporated from the filtrate in vacuo to give the title compound as a yellow solid (0.197 g)

reactant | 2-(Benzyloxycarbonylaminomethyl)oxazole-4-carboxylic acid methyl ester | 0.439 g | COC(=O)C=1N=C(OC1)CNC(=O)OCC1=CC=CC=C1 | C14H14N2O5
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | 2-Aminomethyloxazole-4-carboxylic acid methyl ester | 0.197 g | COC(=O)C=1N=C(OC1)CN | C6H8N2O3
